US08420690B2
a) 5-bromo-2-(3-furanyl)-3-thiophenecarboxylic acid
To a solution of 2,5-dibromo-3-thiophenecarboxylic acid (750 mg, 1.38 mmol)[prepared according to Goto, Hiromasa; Dai, Xiaoman; Narihiro, Harunori; Akagi, Kazuo Macromolecules 2004 37, 7, 2353-2362.] in dioxane/H2O (5:1, 6 mL) was added K2CO3 (486 mg, 3.52 mmol), tetrakistriphenylphosphine Pd(0) (51 mg, 44 umol), and 3-furanboronic acid (108 mg, 0.968 mmol). The reaction mixture was heated to 80° C. in a sealed tube. After 12 h, the solution was poured onto H2O (100 mL) and the pH was adjusted to ˜4 with aqueous HCl. The aqueous phase was extracted several times with DCM and the combined organic fractions were dried (Na2SO4), concentrated under vacuum and used directly: LC-MS (ES) m/z=273.

reactant | 2,5-dibromo-3-thiophenecarboxylic acid | 1.38 mmol, 750 mg | BrC=1SC(=CC1C(=O)O)Br | C5H2Br2O2S
reactant | K2CO3 | 3.52 mmol, 486 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-furanboronic acid | 0.968 mmol, 108 mg | O1C=C(C=C1)B(O)O | C4H5BO3
reactant | HCl | Cl | ClH
solvent | dioxane H2O | 6 mL | O1CCOCC1.O
catalyst | tetrakistriphenylphosphine Pd(0) | 44 umol, 51 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-bromo-2-(3-furanyl)-3-thiophenecarboxylic acid | BrC1=CC(=C(S1)C1=COC=C1)C(=O)O | C9H5BrO3S
